US09034855B2
Ethyl 1-({[(tert-butoxycarbonyl)amino][3-(trifluoromethyl)phenyl]acetyl}amino)cyclopropanecarboxylate
A mixture of 500 mg (1.57 mmol) of [(tert-butoxycarbonyl)amino][3-(trifluoromethyl)-phenyl]acetic acid, 243 mg (1.88 mmol) of ethyl 1-aminocyclopropanecarboxylate, 450 mg (2.35 mmol) of EDC and 317 mg (2.35 mmol) of HOBt in 10 ml of DMF was stirred at RT overnight. The reaction mixture was diluted with ethyl acetate and washed twice with 1N hydrochloric acid and once with a saturated aqueous sodium bicarbonate solution. The organic phase was dried over sodium sulphate and then freed from the solvent on a rotary evaporator. The residue was dried under high vacuum. This gave 650 mg (96% of theory) of the title compound.

reactant | [(tert-butoxycarbonyl)amino][3-(trifluoromethyl)-phenyl]acetic acid | 1.57 mmol, 500 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C14H16F3NO4
reactant | ethyl 1-aminocyclopropanecarboxylate | 1.88 mmol, 243 mg | NC1(CC1)C(=O)OCC | C6H11NO2
reactant | EDC | 2.35 mmol, 450 mg
reactant | HOBt | 2.35 mmol, 317 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-({[(tert-butoxycarbonyl)amino][3-(trifluoromethyl)phenyl]acetyl}amino)cyclopropanecarboxylate | C(C)(C)(C)OC(=O)NC(C(=O)NC1(CC1)C(=O)OCC)C1=CC(=CC=C1)C(F)(F)F | C20H25F3N2O5
